US08124621B2
g) 1-Amino-4-(2-aminophenyl)-6-chloro-3,4-dihydroisoquinoline Hydrochloride
was obtained in analogy to the method indicated in Example 1 g) from 1-amino-6-chloro-4-(2-nitrophenyl)-3,4-dihydroisoquinoline hydrochloride by hydrogenation with PtO2 and MPLC and an elution mixture of 10 parts by volume of ethyl acetate, 5 parts by volume of n-heptane, 5 parts by volume of dichloromethane, 5 parts by volume of methanol and 1 part by volume of concentrated aqueous ammonia solution. The product was dissolved in a little ethyl acetate, acidified with ethereal HCl, stirred at room temperature and filtered off with suction.

reactant | 1-amino-6-chloro-4-(2-nitrophenyl)-3,4-dihydroisoquinoline hydrochloride | Cl.NC1=NCC(C2=CC(=CC=C12)Cl)C1=C(C=CC=C1)[N+](=O)[O-]
reactant | n-heptane | CCCCCCC | C7H16
reactant | ammonia | N | H3N
reactant | HCl | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | PtO2 | O=[Pt]=O
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-Amino-4-(2-aminophenyl)-6-chloro-3,4-dihydroisoquinoline Hydrochloride | Cl.NC1=NCC(C2=CC(=CC=C12)Cl)C1=C(C=CC=C1)N | InChI=1S/C15H14ClN3.ClH/c16-9-5-6-11-12(7-9)13(8-19-15(11)18)10-3-1-2-4-14(10)17;/h1-7,13H,8,17H2,(H2,18,19);1H
